US08802713B2
0.3 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl}-5-formyl-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole was dissolved in 10 mL of methanol, and 79mg of sodium acetate and 67 mg of hydroxylammonium chloride were added, followed by stirring under reflux with heating for 2 hours. Then, the solvent was distilled off under reduced pressure, extraction with ethyl acetate was carried out, the organic layer was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:3) to obtain 0.31 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-(hydroxyimino)methylene-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole.

reactant | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylsulfinyl)phenyl}-5-formyl-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole | 0.3 g | FC1=C(C=C(C(=C1)C)S(=O)CC(F)(F)F)N1N=C(C=C1C=O)OCC(C(F)(F)F)(F)F | C16H11F9N2O3S
reactant | sodium acetate | 79mg | C(C)(=O)[O-].[Na+]
reactant | hydroxylammonium chloride | 67 mg | [Cl-].O[NH3+]
solvent | methanol | 10 mL | CO | CH4O
product | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-(hydroxyimino)methylene-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole | 0.31 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C(C1=NO)=C)OCC(C(F)(F)F)(F)F | C16H12F9N3O2S
